US06949542B2
7-Hydroxymethyl-4-[3-(2-methyl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(tetrahydro-pyran-2-yloxymethyl)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example M241) (156 mg, 0.28 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (50 mg, 42%).

reactant | [2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(tetrahydro-pyran-2-yloxymethyl)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.28 mmol, 156 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)COC1OCCCC1)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O)=O | C33H36F3N3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Hydroxymethyl-4-[3-(2-methyl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | OCC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC=C2)C)=O)C=C1C(F)(F)F | C23H18F3N3O2
